US07405234B2
3A. N-Indan-4-yl-acetamide
A suspension of commercially available 4-nitroindane (10 g, 61.3 mmol) and 10% Pd/C (1 g) in MeOH (200 mL) was stirred vigorously under an atmosphere of hydrogen overnight at rt. The reaction was filtered through a pad of Celite® and concentrated, and residual solvent was removed by combining the reaction with toluene followed by evaporation. The crude reaction was taken up in pyridine (100 mL), and Ac2O (20 mL) was added and the reaction stirred for 16 h at rt. The reaction was evaporated and the crude product was purified by flash chromatography (5% MeOH in EtOAc/hexane(1:1) to give the title compound (9.12 g).

reactant | 4-nitroindane | 61.3 mmol, 10 g | [N+](=O)([O-])C1=C2CCCC2=CC=C1 | C9H9NO2
reactant | Ac2O | 20 mL | CC(=O)OC(=O)C | C4H6O3
solvent | MeOH | 200 mL | CO | CH4O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
catalyst | Pd/C | 1 g | [Pd] | Pd
product | N-Indan-4-yl-acetamide | 9.12 g | C1CCC2=C(C=CC=C12)NC(C)=O | C11H13NO
